US05180741
Stage A: 4-bromo-1,2-epoxyindene
250 ml of pH 8 phosphate buffer, 150 ml of methylene chloride, 200 mg of tetrabutylammonium hydrogenosulphate and 10 g of 4-bromo-3H-indene are mixed together. At 0° C. 10 g of metachloroperbenzoic acid is added in several lots, then the temperature of the mixture is allowed to rise to the ambient over 4 hours, 10 g of metachloroperbenzoic acid is added at 0° C. and the temperature is allowed to rise to 20° C. over 2 hours. 3 g of metachloroperbenzoic acid is added and the mixture is left for 16 hours at ambient temperature, then decanted and extracted with methylene chloride; the extracts are washed with water, with a thiosulphate solution and with water, dried and evaporated to dryness. The residue is chromatographed on silica, eluting with a mixture of hexane and isopropyl ether (9-1) with 3% of triethylamine, and 4.11 g of expected product is isolated.

reactant | phosphate | 250 ml, pH 8 | P(=O)([O-])([O-])[O-]
reactant | 4-bromo-3H-indene | 10 g | BrC1=C2CC=CC2=CC=C1 | C9H7Br
reactant | metachloroperbenzoic acid | 10 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | metachloroperbenzoic acid | 10 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | metachloroperbenzoic acid | 3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
catalyst | tetrabutylammonium | 200 mg | C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-1,2-epoxyindene | 4.11 g | BrC1=C2C=C3C(C2=CC=C1)O3 | C9H5BrO
